US06229049B1
Synthesis of Ethyl 2-(Cyclopropylthio)-2,2-Difluoroacetate
An ether solution of cyclopropyl mercaptan synthesized from cyclopropyl bromide (50.0 g, 413 mmol) in accordance with the process described in literature (J. Am. Chem. Soc., 114, 3492 (1992)) was added dropwise to a solution of 60% sodium hydride (5.4 g, 135 mmol) in dimethyl sulfoxide (100 ml) under cooling with ice, and the mixture was stirred at room temperature for 10 minutes. A solution of ethyl bromodifluoroacetate (27.4 g, 135 mmol) in dimethyl sulfoxide (200 ml) was added dropwise to this solution under cooling with ice, and the resultant mixture was stirred at room temperature for 1 hour. After completion of the reaction, the reaction mixture was poured into ice water to conduct extraction with ether. The solvent was distilled out of the resultant extract under reduced pressure. The resultant residue was distilled under reduced pressure to obtain the intended product (12.3 g; yield: 46.0%) as a colorless oil.

reactant | cyclopropyl mercaptan | C1(CC1)S | C3H6S
reactant | cyclopropyl bromide | 413 mmol, 50.0 g | C1(CC1)Br | C3H5Br
reactant | sodium hydride | 135 mmol, 5.4 g | [H-].[Na+]
reactant | ethyl bromodifluoroacetate | 135 mmol, 27.4 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | Ethyl 2-(Cyclopropylthio)-2,2-Difluoroacetate | yield: 46.0% | C1(CC1)SC(C(=O)OCC)(F)F | C7H10F2O2S
